US06962935B2
Part A. Preparation of 5-(3-cyanophenyl)-4-carboxymethyloxazole.
The title compound was prepared in 50% yield by the condensation of 3-cyanobenzoyl chloride, methyl-isocyanoacetate and triethylamine in anhydrous THF following the general method of Suzuki et. al. Syn. Comm. 1972, 2, 237. 1H NMR (CDCl3) δ: 8.42-8.40 (d, 1H), 7.99 (s, 1H), 9.77-7.75 (d, 1H), 7.63 (t, 1H), 3.99 (s, 3H) ppm; Ammonia mass spectrum analysis m/z (rel intensity) 246(M+NH4+, 100), 229(M+H).

reactant | 3-cyanobenzoyl chloride | C(#N)C=1C=C(C(=O)Cl)C=CC1 | C8H4ClNO
reactant | methyl-isocyanoacetate | COC(C[N+]#[C-])=O | C4H5NO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | Ammonia | N | H3N
solvent | THF | C1CCOC1 | C4H8O
product | 5-(3-cyanophenyl)-4-carboxymethyloxazole | 50% yield | C(#N)C=1C=C(C=CC1)C1=C(N=CO1)CC(=O)O | C12H8N2O3
